US07595327B2
According to the procedure of Example 24, Step 3, 4-{methyl-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl]-amino}-tetrahydro-furan-3-carboxylic acid (0.160 g, 0.35 mmol) and hydroxylamine gave (3S,4R)-4-{methyl-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl]-amino}-tetrahydro-furan-3-carboxylic acid hydroxyamide as an amorphous white solid (0.035 g, 21%) after purification using Biotage Flash 40S chromatography, eluting with 5% methanol in ethyl acetate. MS: 472 (M+H)+

reactant | 4-{methyl-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl]-amino}-tetrahydro-furan-3-carboxylic acid | 0.35 mmol, 0.160 g | CN(C1C(COC1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C23H24N2O6S
reactant | hydroxylamine | NO | H3NO
product | (3S,4R)-4-{methyl-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl]-amino}-tetrahydro-furan-3-carboxylic acid hydroxyamide | 0.035 g, 21% | ONC(=O)[C@@H]1COC[C@@H]1N(S(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C | C23H25N3O6S
